US07777047B2
7-[methyl(pyridin-3-ylsulfonyl)amino]-1H-indole-2-carboxylic acid
A mixture of pyridine-3-sulfonyl chloride (10.0 g), ethyl 7-amino-1-(methoxymethyl)-1H-indole-2-carboxylate (10.0 g) and pyridine (30 mL) was stirred at 50° C. for 2 hr. The reaction mixture was concentrated, and the residue was diluted with ethyl acetate (500 mL) and 1N hydrochloric acid (500 mL). The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over sodium sulfate, and filtrated, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (ethyl acetate-hexane=3:7, volume ratio) to give a pale-yellow solid. The obtained solid was dissolved in N,N-dimethylformamide (100 mL), and potassium carbonate (11.6 g) and methyl iodide (8.0 g) were added. The reaction mixture was stirred at room temperature for 1 hr, and diluted with ethyl acetate (500 mL) and saturated brine (500 mL). The organic layer was washed with saturated brine, dried over sodium sulfate, and filtrated, and the filtrate was concentrated. The obtained residue was dissolved in a mixture of 6N hydrochloric acid (80 mL), tetrahydrofuran (100 mL) and ethanol (100 mL), and the mixture was stirred at 100° C. for 3 hr, and diluted with ethyl acetate (500 mL) and saturated brine (500 mL). The organic layer was dried over sodium sulfate, and filtrated, and the filtrate was concentrated. The residue was dissolved in a mixture of 2N aqueous sodium hydroxide solution (100 mL), tetrahydrofuran (100 mL) and ethanol (100 mL), and the mixture was stirred at 80° C. for 1 hr, and diluted with ethyl acetate (500 mL) and 1N hydrochloric acid (500 mL). The organic layer was washed with saturated brine, dried over sodium sulfate, and filtrated, and the filtrate was concentrated. The obtained crude solid was washed with ethyl acetate and hexane to give the title compound (4.92 g, yield 37%) as a pale-yellow solid. LC-MS: 332 (MH+).

reactant | pyridine-3-sulfonyl chloride | 10.0 g | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | ethyl 7-amino-1-(methoxymethyl)-1H-indole-2-carboxylate | 10.0 g | NC=1C=CC=C2C=C(N(C12)COC)C(=O)OCC | C13H16N2O3
reactant | potassium carbonate | 11.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 8.0 g | CI | CH3I
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | brine | 500 mL | [Cl-].[Na+].O
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 7-[methyl(pyridin-3-ylsulfonyl)amino]-1H-indole-2-carboxylic acid | 4.92 g, yield 37% | CN(C=1C=CC=C2C=C(NC12)C(=O)O)S(=O)(=O)C=1C=NC=CC1 | C15H13N3O4S
